US04355032
Dry hydrogen chloride gas was bubbled for 1.5 hours into a solution of 1,3-di-O-benzylglycerol from Preparation I (15 g, 55 mmol) and paraformaldehyde (3.3 g, 110 mmol) in 175 ml of 1,2-dichloroethane at 0° C. The solution was then stored in a stoppered flask for 21 hours at 4° C. Next, the solution was dried over magnesium sulfate with warming to 21° C. then filtered and concentrated to give 17.5 g of 1,3-di-O-benzyl-2-O-chloromethylglycerol.

reactant | hydrogen chloride | Cl | ClH
reactant | 1,3-di-O-benzylglycerol | C(C1=CC=CC=C1)OCC(O)COCC1=CC=CC=C1 | C17H20O3
reactant | paraformaldehyde | 110 mmol, 3.3 g | C=O | CH2O
solvent | 1,2-dichloroethane | 175 ml | ClCCCl | C2H4Cl2
product | 1,3-di-O-benzyl-2-O-chloromethylglycerol | 17.5 g | C(C1=CC=CC=C1)OCC(OCCl)COCC1=CC=CC=C1 | C18H21ClO3
